US07723352B2
3-(6-methoxy-3-methyl-1-oxo-4-phenylisoquinolin-2(1H)-yl)propan-1-aminium chloride
2-[3-(6-methoxy-3-methyl-1-oxo-4-phenylisoquinolin-2(1H)-yl)propyl]-1H-isoindole-1,3(2H)-dione (0.46 g) was dissolved in 20 mL methanol, and hydrazine (0.100 mL) was added. The reaction was stirred overnight at room temp, then diluted with brine and extracted with EtOAc (3×). The combined organic solutions were dried (Na2SO4) and concentrated. Flash chromatography (5% MeOH in CH2Cl2) gave a solid, which was treated with excess HCl and recrystallized from isopropanol/diethyl ether to give the titled compound.

reactant | 2-[3-(6-methoxy-3-methyl-1-oxo-4-phenylisoquinolin-2(1H)-yl)propyl]-1H-isoindole-1,3(2H)-dione | 0.46 g | COC=1C=C2C(=C(N(C(C2=CC1)=O)CCCN1C(C2=CC=CC=C2C1=O)=O)C)C1=CC=CC=C1 | C28H24N2O4
reactant | hydrazine | 0.100 mL | NN | H4N2
reactant | HCl | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 3-(6-methoxy-3-methyl-1-oxo-4-phenylisoquinolin-2(1H)-yl)propan-1-aminium chloride | [Cl-].COC=1C=C2C(=C(N(C(C2=CC1)=O)CCC[NH3+])C)C1=CC=CC=C1 | InChI=1S/C20H22N2O2.ClH/c1-14-19(15-7-4-3-5-8-15)18-13-16(24-2)9-10-17(18)20(23)22(14)12-6-11-21;/h3-5,7-10,13H,6,11-12,21H2,1-2H3;1H
